US06323370B1
Benzaldehyde (0.404 cm3, 4.0 mmol), di-n-propylamine (0.548 cm3, 4.0 mmol) and [Ir(COD)(dppb)][PF6] (0.070 g, 2 mol %) in dichloromethane were treated as stated above under approx 1 bar H2 at approx. 20° C. for 3 hrs. The yield of N,N-di-n-propylbenzylamine obtained was 39.6%.

reactant | Benzaldehyde | 4.0 mmol, 0.404 cm3 | C(C1=CC=CC=C1)=O | C7H6O
reactant | di-n-propylamine | 4.0 mmol, 0.548 cm3 | C(CC)NCCC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N,N-di-n-propylbenzylamine | C(CC)N(CCC)CC1=CC=CC=C1 | C13H21N
